US06235731B1
2) N-[1-[3-(2-cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To an ethanol solution (8.0 ml) of N-[1-[3-(2-cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (565 mg) was added conc. hydrochloric acid (3.0 ml). The mixture was stirred for 15 minutes at room temperature. The resulting crystals were collected by filtration and washed with ethanol to give the object compound (462 mg, 70%), m.p.234-240° C.

reactant | N-[1-[3-(2-cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 565 mg | C(#N)C1=C(C=CC=C1)OCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H25N5O2S
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
solvent | ethanol | 8.0 ml | C(C)O | C2H6O
product | N-[1-[3-(2-cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 462 mg, 70% | Cl.Cl.C(#N)C1=C(C=CC=C1)OCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H25N5O2S.2ClH/c26-16-18-5-1-2-6-21(18)32-14-4-11-29-12-9-19(10-13-29)28-25(31)22-15-20-17-27-23-7-3-8-24(33-22)30(20)23;;/h1-3,5-8,15,17,19H,4,9-14H2,(H,28,31);2*1H
